US05073564
A stirred solution of 0.75 gram (0.0028 mole) of 2-(5-formylthien-2-ylethynyl)benzothiophene and 0.83 gram (0.0028 mole) of diethyl (4-chlorophenyl)chloromethylphosphonate in 10 ml of dimethylformamide was cooled to 0° C., and 0.94 gram (0.0084 mole) of potassium tertbutoxide was added. Upon completion of addition, the reaction mixture was stirred at 0° C. for 30 minutes and then was allowed to warm to ambient temperature where it was stirred for 18 hours. After this time the reaction mixture was subjected to column chromatography on silica gel. Elution was accomplished using hexane. The appropriate fractions were combined and concentrated under reduced pressure, yielding 0.20 gram of 2-[5-(4-chlorophenylethynyl)thien-2-ylethynyl]benzothiophene; m.p. 189°-191° C. The nmr spectrum was consistent with the proposed structure.

reactant | 2-(5-formylthien-2-ylethynyl)benzothiophene | 0.0028 mole, 0.75 gram | C(=O)C1=CC=C(S1)C#CC=1SC2=C(C1)C=CC=C2 | C15H8OS2
reactant | diethyl (4-chlorophenyl)chloromethylphosphonate | 0.0028 mole, 0.83 gram | ClC1=CC=C(C=C1)C(Cl)P(OCC)(OCC)=O | C11H15Cl2O3P
reactant | potassium tertbutoxide | 0.0084 mole, 0.94 gram | CC(C)([O-])C.[K+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-[5-(4-chlorophenylethynyl)thien-2-ylethynyl]benzothiophene | 0.20 gram | ClC1=CC=C(C=C1)C#CC1=CC=C(S1)C#CC=1SC2=C(C1)C=CC=C2 | C22H11ClS2
